US20010037514A1
A triacylglycerol containing oil having an EOE content of at least 50% based on total triacylglycerol composition can be chemically synthesized using 1,3 dihydroxyacetone and free erucic and oleic fatty acids as starting materials. Oils chemically synthesized as described herein have EOE contents of 80% or greater, and preferably greater than 90%. In the first step, 1,3 dihydroxyacetone dimer and erucic acid can be reacted in the presence of dicyclohexylcarbodiimide and 4-dimethylaminopyridine to form 1,3 dierucoylpropanone. The ketone group of 1,3 dierucoylpropanone can be reduced using, for example, sodium borohydride and water to form 1,3 dierucoylpropanol. EOE can be produced by reacting 1,3 dierucoylpropanol and oleic acid in the presence of dicyclohexylcarbodiimide and 4-dimethylaminopyridine to form 1,3 dierucoyl 2-oleoyl propane.

reactant | 1,3 dierucoylpropanol | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)C(CCC(CCCCCCCCCCC\C=C/CCCCCCCC)=O)O | C47H88O3
reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 1,3 dierucoyl 2-oleoyl propane | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)CC(CC(CCCCCCCCCCC\C=C/CCCCCCCC)=O)C(CCCCCCC\C=C/CCCCCCCC)=O | C65H120O3
